US04232035
4-[[O-[N-Methyl-N-(phenylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane was prepared by the procedure described in Example I by reacting 5.0 g (0.0375 m) of 5-methyl-4-oximino-1,3-oxathiolane, 8.15 g (0.0375 m) of N-methyl-N-(phenylthiosulfenyl) carbamoyl fluoride and 3.79 g (0.0375 m) of triethylamine in 100 ml of dioxane. The crude residual oil was purified using silica gel column to yield 3.5 g of an oil.

reactant | 5-methyl-4-oximino-1,3-oxathiolane | 5.0 g | CC1C(SCO1)=NO | C4H7NO2S
reactant | N-methyl-N-(phenylthiosulfenyl) carbamoyl fluoride | 8.15 g | CN(C(=O)F)SSC1=CC=CC=C1 | C8H8FNOS2
reactant | triethylamine | 3.79 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[[O-[N-Methyl-N-(phenylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane | CN(C(=O)ON=C1SCOC1C)SSC1=CC=CC=C1 | C12H14N2O3S3
